US07776857B2
A pressure resistant bottle was charged with 6-methoxyquinazolin-4(3H)-one (1.0 g, 5.68 mmol) and POCl3(17.5 ml, 187.3 mmol). The resulting mixture was heated at 105° C. for 18 hours. The reaction mixture was cooled to RT and poured onto ice slurry while stirring heavily. The solution was quickly neutralized with 6N NaOH, and product extracted with DCM. The organic layer was collected, dried over sodium sulfate and concentrated to afford 4-chloro-6-methoxyquinazoline as tan solid. MS: [M+H]=194.9; Calc'd for C9H7ClN2O: 194.6.

reactant | 6-methoxyquinazolin-4(3H)-one | 5.68 mmol, 1.0 g | COC=1C=C2C(NC=NC2=CC1)=O | C9H8N2O2
reactant | POCl3 | 187.3 mmol, 17.5 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | NaOH | 6N | [OH-].[Na+]
product | 4-chloro-6-methoxyquinazoline | ClC1=NC=NC2=CC=C(C=C12)OC | C9H7ClN2O
